US06987114B1
1-(3,5-Difluorobenzyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and 3,5-difluorobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (195 mg, yield: 50.5%).

reactant | 5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O3
reactant | 3,5-difluorobenzyl bromide | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
product | 1-(3,5-Difluorobenzyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 195 mg, yield: 50.5% | FC=1C=C(CN2C(NC(C(=C2OC2=CC(=CC(=C2)C)C)CC)=O)=O)C=C(C1)F | C21H20F2N2O3
